US07858623B2
Step 4: N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide.
To a stirring solution of 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (104 mg, 358 μmol) and diisopropylethylamine (62 μl, 358 μmol) in DMF (1 mL) was added HATU (136 mg, 358 μmol) and stirred at 37° C. under nitrogen for 15 min. To this was added 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine (98 mg, 344 mmol) and stirred overnight at 37° C. The reaction mixture was diluted with dichloromethane (10 mL) and washed with 1M NaOH (20 mL), and extracted with dichloromethane (3×5 mL). Combined organics layer was washed with brine and then dried with MgSO4. Residual DMF was removed with repeated azeotroping with toluene (4×5 mL) under reduced pressure. The residue was purified on 12 g silica (10>30% of 6% 2 M NH3 in MeOH/DCM). Final material was lyophilized from 50% ACN/water to give the title compound (155 mg, 74% yield) as a white fluffy solid. MS (ESI pos. ion) m/z: 587 (MH+). Calc'd exact mass for C32H31FN4O6 587. 1H NMR (400 MHz, CHLOROFORM-d) 10.88 (1H, s), 8.47 (1H, d, J=5.3 Hz), 7.92 (1H, dd, J=12.5, 2.0 Hz), 7.59 (1H, s), 7.54 (2H, t, J=7.7 Hz), 7.40-7.49 (2H, m), 7.30 (3H, d, J=7.8 Hz), 7.17 (1H, t, J=8.7 Hz), 6.45 (1H, d, J=5.3 Hz), 4.06 (3H, s), 4.05 (3H, s), 3.88 (2H, s), 2.89 (3H, s), 2.01 (1H, s), 1.15 (6H, s)

reactant | 1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 358 μmol, 104 mg | OC(CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1)(C)C | C15H18N2O4
reactant | diisopropylethylamine | 358 μmol, 62 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 358 μmol, 136 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine | 344 mmol, 98 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)N | C16H13FN2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-1-(2-hydroxy-2-methylpropyl)-5-methyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 155 mg, 74% yield | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(N(C1C)CC(C)(C)O)C1=CC=CC=C1)=O)F | C32H31FN4O6
